US05574055
A suspension of 1.4 g of 3-(5-bromo-pyridin-2-yl)-5-methoxymethyl-oxazolidin-2-one, 1.4 g of 8-trimethylstannyl-1,4-dioxa-spiro[4,5]dec-7-ene and 0.3 of bis(triphenylphosphine)palladium(II) dichloride in 20 ml of tetrahydrofuran was stirred at 70° under argon for 18 h. Then, the mixture was cooled, treated with 150 ml of ethyl acetate and 150 ml of saturated potassium fluoride solution and stirred for 30 minutes. The mixture was filtered over a Celite® pad, the phases were separated and the aqueous phase was extracted with ethyl acetate. The organic phases were combined, dried with magnesium sulfate, concentrated and chromatographed over silica gel 60 with diethyl ether as the eluent. There was obtained 0.6 g of (RS)-3-[5-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-pyridin-2-yl]-5-methoxymethyl-oxazolidin-2-one. 1H-nmr(CDCl3) ppm: 8.41 (s, 1H), 8.03 (d, 1H), 7.89 (d, 1H), 6.08 (t, 1H), 4.82 (m, 1H), 4.21 (t, 1H), 3.91 (t, 1H), 3.92 (s, 4H), 3.60 (m, 2H), 3.32 (s, 3H), 2.54 (m, 2H), 2.38 (m, 2H), 1.82 (t, 2H).

reactant | 3-(5-bromo-pyridin-2-yl)-5-methoxymethyl-oxazolidin-2-one | 1.4 g | BrC=1C=CC(=NC1)N1C(OC(C1)COC)=O | C10H11BrN2O3
reactant | 8-trimethylstannyl-1,4-dioxa-spiro[4,5]dec-7-ene | 1.4 g | C[Sn](C1=CCC2(OCCO2)CC1)(C)C
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | potassium fluoride | 150 ml | [F-].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (RS)-3-[5-(1,4-dioxa-spiro[4,5]dec-7-en-8-yl)-pyridin-2-yl]-5-methoxymethyl-oxazolidin-2-one | 0.6 g | O1CCOC12CC=C(CC2)C=2C=CC(=NC2)N2C(OC(C2)COC)=O | C18H22N2O5
